US09340510B2
6-Benzyloxy-1,2,3,4-tetrahydro-isoquinolin-4-ol
To 10 g (41 mmol) 2-amino-1-[3-(benzyloxy)phenyl]ethan-1-ol and 4.6 mL (62 mmol) formaldehyde (37% solution in water) in 100 mL DCM are added slowly 6.3 mL (82 mmol) TFA and the resulting mixture is stirred at r.t. over night. The reaction is neutralised by the addition of a sat. aq. NaHCO3 solution and extracted with DCM. The organic layer is washed with a sat. aq. NaCl solution, dried over MgSO4, filtered and the solvent is removed in vacuo.

reactant | 2-amino-1-[3-(benzyloxy)phenyl]ethan-1-ol | 41 mmol, 10 g | NCC(O)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C15H17NO2
reactant | formaldehyde | 62 mmol, 4.6 mL | C=O | CH2O
reactant | TFA | 82 mmol, 6.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-Benzyloxy-1,2,3,4-tetrahydro-isoquinolin-4-ol | C(C1=CC=CC=C1)OC=1C=C2C(CNCC2=CC1)O | C16H17NO2
